data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_351060_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])([N:4]([H:8])[H:9])[O:5][O:6][H:7]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:10])([H:14])[H:15])([O:5][N:4]([H:8])[H:9])[O:6][H:7],62.446917499994754
MR_602522_0,[C:1]1([C:6](=[C:7]([C:4]([H:18])([H:19])[H:23])[C:5]([H:20])([H:21])[H:22])[N:9]([H:12])[H:13])([N:8]([H:10])[H:11])[C:2]([H:14])([H:15])[C:3]1([H:16])[H:17]>>[C:1](\[C:2]([C:3]([H:16])([H:17])[H:21])([H:14])[H:15])(=[C:6](\[C:7]([C:4]([H:18])([H:19])[H:23])=[C:5]([H:20])[H:22])[N:9]([H:12])[H:13])[N:8]([H:10])[H:11],41.96531750002109
MR_669876_1,[C:1]([C:3]([O:8][H:10])=[O:9])([C:4]([C:5]([C:2]([H:17])([H:18])[H:19])[N:7]([H:13])[H:14])[N:6]([H:11])[H:12])([H:15])[H:16]>>[C:1](=[C:4]([C@@:5]([C:2]([H:17])([H:18])[H:19])([C:3]([O:8][H:10])=[O:9])[N:7]([H:13])[H:14])[N:6]([H:11])[H:12])([H:15])[H:16],62.31577000000485
MR_679054_1,[C:1](/[C:7](=[C:4]([C:2](=[C:3](/[N:5]([H:12])[H:13])[O:9][H:11])\[O:8][H:10])/[N:6]([H:14])[H:15])[H:16])([H:17])([H:18])[H:19]>>[C:1]([C@:7]1([H:16])[C@:3]([N:5]([H:12])[H:13])([O:9][H:11])[C:2]([O:8][H:10])=[C:4]1[N:6]([H:14])[H:15])([H:17])([H:18])[H:19],37.4429249999892
MR_694434_0,[C:1]([O:2][O:3][H:5])(=[O:4])[H:6]>>[C:1](=[O:2])([O:4][O:3][H:5])[H:6],49.52418249998416
MR_145863_1,[C:1]([N:2]([C:4](=[O:7])[H:10])[H:9])([C:3](=[C:5]([H:13])[H:14])[O:6][H:8])([H:11])[H:12]>>[C:1]1([H:11])([H:12])[N:2]([H:9])[C:3]1([C:5]([C:4](=[O:7])[H:10])([H:13])[H:14])[O:6][H:8],72.86467249994502
MR_300600_0,[C:1](/[C:3]([C:2]([H:13])([H:14])[H:15])=[C:5](/[N:4]([H:8])[H:9])[H:12])([N:6]=[O:7])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C:3]([C:2]([H:13])([H:14])[H:15])([N:6]=[O:7])[C:5]1([N:4]([H:8])[H:9])[H:12],58.21129249998791
MR_22125_1,[C:1](=[C:4]([C:5]([O:7][C:3]([H:13])([H:14])[H:15])([H:16])[H:17])[O:6][C:2]([H:10])([H:11])[H:12])([H:8])[H:9]>>[C:1]([C:4](=[C:5]([H:16])[H:17])[O:6][C:2]([H:10])([H:11])[H:12])([O:7][C:3]([H:13])([H:14])[H:15])([H:8])[H:9],67.67650250002461
MR_601907_0,[C:1](=[C:2]([N:3]([H:9])[H:10])[N:4]([H:11])[H:12])([O:5][H:8])/[N:6]=[N:7]\[H:13]>>[C:1]1([O:5][H:8])=[N:6][N:7]([H:13])[C:2]1([N:3]([H:9])[H:10])[N:4]([H:11])[H:12],46.247377500017706
MR_25969_0,[C:1]([C:3](=[C:5]([H:18])[H:20])[H:13])([C:6]([C:2]([C:4]([H:15])([H:16])[H:17])([H:11])[H:12])([N:7]([H:8])[H:19])[H:14])([H:9])[H:10]>>[C:1]([C:3]([C:5]([H:18])([H:19])[H:20])([H:13])[H:14])(/[C:6]([C:2]([C:4]([H:15])([H:16])[H:17])([H:11])[H:12])=[N:7]/[H:8])([H:9])[H:10],72.35765250001236
MR_424514_1,[C@@:1]1([C:3]([H:14])([H:15])[H:16])(/[C:5](=[C:7](\[C:4]([H:19])([H:20])[H:21])[H:13])[O:9][H:10])[C:2]([H:11])([H:12])[C:6]1=[C:8]([H:17])[H:18]>>[C:1]1([C:3]([H:14])([H:15])[H:16])=[C:5]([O:9][H:10])[C@:7]([C:4]([H:19])([H:20])[H:21])([H:13])[C:6](=[C:8]([H:17])[H:18])[C:2]1([H:11])[H:12],57.76639500000542
MR_129148_0,[C@@:1]([N:3]([C:2]([H:12])([H:13])[H:14])[O:5][H:7])([N:4]([H:10])[H:11])([O:6][H:8])[H:9]>>[C@:1]([N:3]([C:2]([H:12])([H:13])[H:14])[O:6][H:8])([N:4]([H:10])[H:11])([O:5][H:7])[H:9],68.98860499999344
MR_298864_1,[C:1]1([O:4][O:5][H:7])([H:9])/[C:2](=[N:6]\[H:8])[C:3]1([H:10])[H:11]>>[C:1](/[C:2](=[N:6]\[H:8])[H:9])(=[C:3]([H:10])[H:11])[O:4][O:5][H:7],67.91683500002421
MR_70374_0,[C:1]([C:2]([H:11])([H:12])[H:13])([C:4]([C:3]([O:5][H:8])=[O:6])=[O:7])([H:9])[H:10]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([O:5][H:8])=[O:6])([C:4](=[O:7])[H:10])[H:9],55.1534849999679
MR_311290_1,[C:1](/[C:6](=[C:5](\[N:2]([C:4](=[C:3]([O:7][H:10])[O:8][H:9])[H:12])[H:11])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:6]([C:5]1([H:13])[N:2]([H:11])[C:4]1([C:3](=[O:7])[O:8][H:9])[H:12])([H:10])[H:14])([H:15])([H:16])[H:17],22.21852000001136
MR_204724_1,[C:1]([N:2]([N:3]([H:7])[H:8])[N:4]([H:6])[H:10])([O:5][H:9])([H:11])[H:12]>>[C:1]([N:2]([N:3]([H:7])[H:8])[N:4]([H:9])[H:10])([O:5][H:6])([H:11])[H:12],39.34801499999466
MR_615946_2,[C:1]([C:3]([H:16])([H:17])[H:18])([C:4]([O:7][H:12])=[O:9])([C:5]([C:2]([O:8][H:13])([H:14])[H:15])=[O:10])[O:6][H:11]>>[C:1](\[C:3]([H:16])([H:17])[H:18])(=[C:5](/[C:2]([O:8][H:13])([H:14])[H:15])[O:10][C:4]([O:7][H:12])=[O:9])[O:6][H:11],69.49436999996493
MR_427124_1,[C@@:1]([N:5]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])([N:6]([H:10])[H:11])(/[N:7]=[N:8]/[C:4]([H:18])([H:19])[H:20])[H:9]>>[C:1](\[N:6]([H:10])[H:11])(=[N:7]/[N:8]([C:4]([H:18])([H:19])[H:20])[N:5]([C:2]([H:12])([H:13])[H:17])[C:3]([H:14])([H:15])[H:16])[H:9],57.69297750001243
MR_318766_1,[C:1]1([C:3](=[C:5]([H:13])[H:14])[N:7]=[C:4]([H:11])[H:12])([H:8])[C:2]([H:9])([H:10])[O:6]1>>[C:1]1([C:3](=[C:5]([H:13])[H:14])[N:7]=[C:4]([H:11])[H:12])([H:8])[C:2]([H:9])([H:10])[O:6]1,54.75376749997835
MR_615800_0,[C:1]1([H:11])([H:12])/[C:3](=[N:7]/[H:10])[O:9][C:5]([O:6][C:2]([H:14])([H:15])[H:16])([H:13])[C:4]1=[O:8]>>[C:1](/[C:3]([O:6][C:2]([H:14])([H:15])[H:16])=[N:7]/[H:10])([C:4]([C:5](=[O:9])[H:13])=[O:8])([H:11])[H:12],53.86209000001813
